US05342941
To a solution of 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene (17 g) in dimethylformamide (50 ml) is added gradually sodium hydride (60% dispersion-type) under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. The mixture is cooled with ice, and thereto is added 2-methoxyethyl iodide (10.3 g). The mixture is stirred at room temperature for 2 hours, and heated to 80° C. One hour thereafter, the reaction solution is allowed to cool, and concentrated. The resulting residue is dissolved in ethyl acetate, washed with water, dried, and concentrated. The precipitated crystal is washed with diethyl ether to give 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-(2-methoxyethyloxy)-7-methoxynaphthalene (8.5 g).

reactant | 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene | 17 g | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)O)C(=O)OC)C(=O)OC | C20H17NO6
reactant | sodium hydride | [H-].[Na+]
reactant | 2-methoxyethyl iodide | 10.3 g | COCCI | C3H7IO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-(2-methoxyethyloxy)-7-methoxynaphthalene | 8.5 g, Yield: 43% | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OCCOC)C(=O)OC)C(=O)OC | C23H23NO7
